US08957089B2
85.7 N-[2-({1-[1-(4-Chlorophenyl)cyclopropyl]-1,2,3,4-tetrahydroisoquinolin-7-yl}oxy)ethyl]pyridine-3-sulfonamide
A solution of N-[2-({1-[1-(4-chlorophenyl)cyclopropyl]-3,4-dihydroisoquinolin-7-yl}oxy)ethyl]-1-methyl-1H-pyrazole-4-sulfonamide (46 mg, 0.09 mmol), sodium borohydrid (7.2 mg, 0.19 mmol) in water (0.25 ml) and methanol (2 ml) was stirred for 3 days at room temperature. The solvent was removed, the residue dissolved in methylenehloride and extracted with water. The methylenehloride was evaporated and the remaining solid purified by chromatography. Yield: 20 mg (0.04 mmol, 43%)

reactant | N-[2-({1-[1-(4-chlorophenyl)cyclopropyl]-3,4-dihydroisoquinolin-7-yl}oxy)ethyl]-1-methyl-1H-pyrazole-4-sulfonamide | 0.09 mmol, 46 mg | ClC1=CC=C(C=C1)C1(CC1)C1=NCCC2=CC=C(C=C12)OCCNS(=O)(=O)C=1C=NN(C1)C | C24H25ClN4O3S
reactant | sodium borohydrid | 0.19 mmol, 7.2 mg | [BH4-].[Na+]
reactant | methanol | 2 ml | CO | CH4O
solvent | water | 0.25 ml | O | H2O
product | N-[2-({1-[1-(4-Chlorophenyl)cyclopropyl]-1,2,3,4-tetrahydroisoquinolin-7-yl}oxy)ethyl]pyridine-3-sulfonamide | ClC1=CC=C(C=C1)C1(CC1)C1NCCC2=CC=C(C=C12)OCCNS(=O)(=O)C=1C=NC=CC1 | C25H26ClN3O3S
